US07749999B2
4-tert-Butyl-2-methyl-6-nitro-phenol.
4-tert-Butyl-2-methyl-phenol (1.64 g, 10 mmol) was dissolved in 15 mL acetic acid, fuming nitric acid (0.47 mL, 10 mmol) was added and the resulting solution was stirred at rt overnight. The reaction mixture was then poured onto crushed ice, and extracted with chloroform. The organic phase was washed with water, and dried over sodium sulfate. Evaporation gave 2.02 g the nitration product as a red oil.

reactant | 4-tert-Butyl-2-methyl-phenol | 10 mmol, 1.64 g | C(C)(C)(C)C1=CC(=C(C=C1)O)C | C11H16O
reactant | nitric acid | 10 mmol, 0.47 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4-tert-Butyl-2-methyl-6-nitro-phenol | 2.02 g | C(C)(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])O)C | C11H15NO3
